US04413010
29.4 g of ethyl 2-hydroxypropylcarbamate are dissolved in 27 g of triethylamine and 22.9 g of methanesulphonyl chloride are added dropwise thereto at 15°-20° C. over 1 hour while stirring. The thickening reaction mixture is stirred for 2.5 hours and then poured into ice-water. The mixture is acidified by means of 2 N hydrochloric acid and extracted three times with methylene chloride. The extracts are washed neutral with water and dried over sodium sulfate. After evaporating the solvent, there is obtained ethyl 2-(methylsulphonyloxy)propylcarbamate (nD20 =1.4577) which can be used without further purification.

reactant | ethyl 2-hydroxypropylcarbamate | 29.4 g | OC(CNC(OCC)=O)C | C6H13NO3
reactant | methanesulphonyl chloride | 22.9 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | triethylamine | 27 g | C(C)N(CC)CC | C6H15N
product | ethyl 2-(methylsulphonyloxy)propylcarbamate | CS(=O)(=O)OC(CNC(OCC)=O)C | C7H15NO5S
